US07674815B2
In analogy to example S1) 111 mg (0.69 mmol) of 5-methyl-benzofuran-2-carbaldehyde and 144 mg (0.76 mmol) of 2-(3,4-dichloro-phenyl)-ethylamine were reacted to yield 206 mg (89%) of [2-(3,4-dichloro-phenyl)-ethyl]-(5-methyl-benzofuran-2-ylmethyl)-amine as light brown oil. 1HNMR (CDCl3, 300 MHz): δ 2.42 (s, 3H), 2.77 (t, J=6.7 Hz, 2H), 2.89 (t, J=6.7 Hz, 2H), 3.91 (s, 2H), 6.46 (s, 1H), 7.04 (m, 2H), 7.32 (m, 4H).

reactant | 5-methyl-benzofuran-2-carbaldehyde | 0.69 mmol, 111 mg | CC=1C=CC2=C(C=C(O2)C=O)C1 | C10H8O2
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 0.76 mmol, 144 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
product | [2-(3,4-dichloro-phenyl)-ethyl]-(5-methyl-benzofuran-2-ylmethyl)-amine | 206 mg, 89% | ClC=1C=C(C=CC1Cl)CCNCC=1OC2=C(C1)C=C(C=C2)C | C18H17Cl2NO
